US07977345B2
To a round bottom flask equipped with a magnetic stir bar was added 3-fluoro-4-(7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)-phenylamine (0.07 g, 0.29 mmol, 1.0 eq.), 1-(4-fluoro-phenylcarbamoyl)-cyclopropanecarboxylic acid (0.105 g, 0.32 mmol), HATU (0.304 g, 0.58 mmol), triethylamine (0.13 ml, 0.87 mmol), and anhydrous DMF (3 ml). The reaction mixture was stirred at room temperature overnight. The reaction mixture was diluted with H2O (50 ml) and extracted with CHCl3 (3×). The combined CHCl3 extractions were washed with H2O (1×), sat'd NaHCO3 (2×), 10% LiCl (3×), sat'd NaCl (1×), dried (Na2SO4), and concentrated in vacuo. The resulting crude residue was purified by HPLC to yield N-(4-fluorophenyl)-N′-[3-fluoro-4-(7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)phenyl]-cyclopropane-1,1-dicarboxamide as a white solid (0.011 g, 9.0% yield). 1H NMR (400 MHz, DMSO): 9.59 (bs, 1H), 8.47 (s, 1H), 7.85 (m, 2H), 7.65 (m, 3H), 7.48 (d, 1H), 7.36 (t, 1H), 7.19 (d, 1H), 7.15 (t, 3H), 1.44 (s, 5H); MS (ESI) for C23H17F2N5O3: 450 (MH+).

reactant | 3-fluoro-4-(7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)-phenylamine | 0.29 mmol, 0.07 g, 1.0 eq. | FC=1C=C(C=CC1OC=1C2=C(N=CN1)NC=C2)N | C12H9FN4O
reactant | 1-(4-fluoro-phenylcarbamoyl)-cyclopropanecarboxylic acid | 0.32 mmol, 0.105 g | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)O | C11H10FNO3
reactant | HATU | 0.58 mmol, 0.304 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.87 mmol, 0.13 ml | C(C)N(CC)CC | C6H15N
solvent | H2O | 50 ml | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N-(4-fluorophenyl)-N′-[3-fluoro-4-(7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)phenyl]-cyclopropane-1,1-dicarboxamide | 0.011 g, 9.0% yield | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=CC(=C(C=C1)OC=1C2=C(N=CN1)NC=C2)F | C23H17F2N5O3
